US06316482B1
A suspension of 2-methyl-4-nitrobenzimidazole (2.2 g) in 1,4-dioxane (35 ml) was treated with triethylamine (2.51 g) and di-tert-butyl dicarbonate (5.42 g). After 15 minutes, to the reaction mixture was added N,N-dimethylaminopyridine (catalytic amount). The solution was stirred a further 20 hours and concentrated in vacuo and the residue was dissolved in ethyl acetate. The solution was washed with 1N hydrochloric acid, water, saturated aqueous sodium hydrogen carbonate and brine. The organic layer was dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by silica gel column chromatography (chloroform) to give tert-butyl 2-methyl-4-nitro-1H-benzimidazole-1-carboxylate (3.0 g).

reactant | 2-methyl-4-nitrobenzimidazole | 2.2 g | CC=1NC2=C(N1)C=CC=C2[N+](=O)[O-] | C8H7N3O2
reactant | triethylamine | 2.51 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.42 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 2-methyl-4-nitro-1H-benzimidazole-1-carboxylate | 3.0 g | CC1=NC2=C(N1C(=O)OC(C)(C)C)C=CC=C2[N+](=O)[O-] | C13H15N3O4
